US07785591B2
The expression of the TG-1 F cells on pMORPHx9-FS-coded Fab fragments in E. coli was performed in shaking bottle cultures with 0.75 l of 2×TY medium and 34 μg/ml of chloramphenicol. After induction with 0.75 mmol of IPTG, the cells were cultivated for 16 hours at 30° C. As an alternative, Fab clones, which had been obtained from the second maturation pool 2, were induced with 0.1 mmol of IPTG and then cultivated at 22° C. Periplasmatic extracts from cell pellets were produced by osmotic shock, and the Fab fragments were isolated by Strep-Tactin® chromatography (IBA, Göttingen, Germany). The apparent molecular weights were determined by size-exclusion chromatography (SEC) with calibrating standards. The concentrations were determined by UV spectrometry.

reactant | TG-1 | CC(=O)CC[NH+]1CCCCCC1.[Cl-]
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | IPTG | 0.75 mmol | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | IPTG | 0.1 mmol | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
product | IBA | C1=CC2=C(C=C1)NC=C2CCCC(=O)O | C12H13NO2
